US07504408B2
7-[3-(4-acetylpiperazin-1-yl)propoxy]-N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine
This was prepared using the, method described in the example 4 using 7-[3-(4-acetylpiperazin-1-yl)propoxy]-4-chloro-6-methoxyquinazoline (150 mg, 0.40 mmol), 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (97 mg, 0.43 mmol) and a solution of sodium bis(trimethylsilyl)amide (1.0M in THF, 0.83 ml) in DMF (2.5 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (162 mg, 72%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 1.98 (quintet, 2H), 1.99 (s, 3H), 2.34 (m, 2H), 2.40 (m, 2H), 2.50 (t, 2H), 3.37 (s, 3H), 3.44 (m, 4H), 3.94 (s, 3H), 4.20 (t, 2H), 4.37 (s, 2H), 6.16 (s, 2H), 6.91 (d, 1H), 7.19 (s, 1H), 7.81 (s, 1H), 8.36 (s, 1H), 9.52 (s, 1H); Mass Spectrum: M+H+ 566.

reactant | 7-[3-(4-acetylpiperazin-1-yl)propoxy]-4-chloro-6-methoxyquinazoline | 0.40 mmol, 150 mg | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C18H23ClN4O3
reactant | 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.43 mmol, 97 mg | FC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10FNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 0.83 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 7-[3-(4-acetylpiperazin-1-yl)propoxy]-N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 162 mg, 72% | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCOC)F)OC | C29H32FN5O6
